US08703774B2
a.1) tert-Butyl 4-(4-ethylpiperazin-1-yl)piperidine-1-carboxylate
29.2 g (256 mmol) of N-ethylpiperazine were introduced with 50.0 g (256 mmol) of tert-butyl 4-oxopiperidine-1-carboxylate (corresponds to 1-Boc-4-piperidone) into 800 ml of ethanol while cooling in ice. 15.4 g (256 mmol) of glacial acetic acid were added. Then 16.1 g (256 mmol) of sodium acetoxyborohydride were added in portions to the cooled reaction mixture. Initially slight gas formation was observed and, after addition of ⅔ of the reducing agent, foam formation was observed. The reaction mixture was stirred at room temperature overnight. The reaction solution was worked up by adding 200 ml of 2N of sodium hydroxide solution while cooling, distilling out the solvent ethanol and diluting the remaining reaction mixture with water. It was extracted with diethyl ether (2×) and was washed with saturated sodium chloride solution (1×), and the combined organic phases were dried over magnesium sulfate and filtered, and the solvent was removed in vacuo. The crude title compound was obtained as a yellow oil which was then chromatographed on a 4 l suction funnel filled with silica gel using dichloromethane and 10% methanol as eluent. In total, 40 g (135 mmol, 53%) of tert-butyl 4-(4-ethylpiperazin-1-yl)piperidine-1-carboxylate were obtained.

reactant | N-ethylpiperazine | 256 mmol, 29.2 g | C(C)N1CCNCC1 | C6H14N2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 256 mmol, 50.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | acetic acid | 256 mmol, 15.4 g | C(C)(=O)O | C2H4O2
reactant | sodium acetoxyborohydride | 256 mmol, 16.1 g | C(C)(=O)O[BH3-].[Na+]
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | tert-butyl 4-(4-ethylpiperazin-1-yl)piperidine-1-carboxylate | 135 mmol, 40 g, 53% | C(C)N1CCN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H31N3O2
